US06965048B2
A solution of 0.088 g (0.20 mmol) of trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid in 2 mL of CH2Cl2 was treated at RT with 1 drop of DMF, followed by 0.019 mL (0.22 mmol, 1.1 eq) of oxalyl chloride and stirring was continued for 90 min. The solvent was evaporated, the residue was redissolved in 2.5 mL of CH2Cl2 and added to a solution of 0.25 mL (2.00 mmol, 10 eq) of methylamine (33% solution in EtOH) in 2 mL of CH2Cl2 at 0° C. The reaction mixture was stirred at 0° C. for 3/4 h, then partitioned between Et2O (×3)/aqueous 10% KHSO4. The organic phases were washed once with aqueous 10% NaCl, dried over Na2SO4 and evaporated. Purification by flash-chromatography on 20 g silica gel (CH2Cl2:MeOH 98:2 to 95:5) gave 0.042 g (48%) of pure trans-methyl-(2-{4-[methyl-(2-methylcarbamoyl-ethyl)-carbamoyl]-cyclohexyl}-ethyl)-carbamic acid 4-chloro-phenyl ester, MS: 438 (MH+, 1Cl).

reactant | trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid | 0.20 mmol, 0.088 g | ClC1=CC=C(OC(=O)N(CC[C@@H]2CC[C@H](CC2)C(=O)N(CCC(=O)O)C)C)C=C1 | C21H29ClN2O5
reactant | oxalyl chloride | 0.22 mmol, 0.019 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 2.00 mmol, 0.25 mL, 10 eq | CN | CH5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | trans-methyl-(2-{4-[methyl-(2-methylcarbamoyl-ethyl)-carbamoyl]-cyclohexyl}-ethyl)-carbamic acid 4-chloro-phenyl ester | 0.042 g, 48% | ClC1=CC=C(C=C1)OC(N(CC[C@@H]1CC[C@H](CC1)C(N(CCC(NC)=O)C)=O)C)=O | C22H32ClN3O4
